US05994378
1-Ethyl-3-(3'-dimethylaminopropyl)carbodiimide (46.5 mg) was added to a mixture of methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(carboxymethoxy)indole-3-acetate (145 mg), dimethylamine hydrochloride (24.4 mg) and 1H-hydroxybenzotriazole hydrate (40.4 mg) in dichloromethane (2 ml) and then the mixture was stirred at room temperature for 2 hours. After removal of solvent, the residue was partitioned between aqueous sodium hydrogen carbonate solution and ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate and concentrated under reduced pressure. The residue was subjected to column chromatography on silica gel and eluted with a mixture of n-hexane and ethyl acetate. The fractions containing the objective compound were combined and concentrated under reduced pressure to give methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N,N-dimethylcarbamoylmethoxy)-indole-3-acetate (0.16 g).

reactant | 1-Ethyl-3-(3'-dimethylaminopropyl)carbodiimide | 46.5 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(carboxymethoxy)indole-3-acetate | 145 mg | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(=O)O)CC(=O)OC | C29H28N2O6S
reactant | dimethylamine hydrochloride | 24.4 mg | Cl.CNC
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | methyl 1-{[2-(4-tert-butylthiazol-2-yl)benzofuran-5-yl]methyl}-5-(N,N-dimethylcarbamoylmethoxy)-indole-3-acetate | 0.16 g | C(C)(C)(C)C=1N=C(SC1)C=1OC2=C(C1)C=C(C=C2)CN2C=C(C1=CC(=CC=C21)OCC(N(C)C)=O)CC(=O)OC | C31H33N3O5S
